US07238696B2
Preparation of 5-(4-Benzylpiperazin-1-yl)-1-methyl-3-(phenylsulfonyl)-1H-indazole
A solution of 5-(4-benzylpiperazin-1-yl)-3-(phenylsulfonyl)-1H-indazole (433 mg, 1.00 mmol) in THF at room temperature is treated with NaH (80 mg, 60% in mineral oil, 2.00 mmol), stirred for 0.5 h, treated with methyl iodide (142 mg, 1.00 mmol), stirred for 16 h, and diluted with water and EtOAc. The organic phase is separated, dried over MgSO4, and concentrated in vacuo. The resultant residue is chromatographed (SiO2, 90:10 EtOAc:hexanes as eluent) to afford the title compound as a white solid, 190 mg (43% yield), mp 195–197° C., identified by mass spectral and NMR analyses.

reactant | 5-(4-benzylpiperazin-1-yl)-3-(phenylsulfonyl)-1H-indazole | 1.00 mmol, 433 mg | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC=C1 | C24H24N4O2S
reactant | NaH | 2.00 mmol, 80 mg | [H-].[Na+]
reactant | methyl iodide | 1.00 mmol, 142 mg | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(4-Benzylpiperazin-1-yl)-1-methyl-3-(phenylsulfonyl)-1H-indazole | 43% yield | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C2C(=NN(C2=CC1)C)S(=O)(=O)C1=CC=CC=C1 | C25H26N4O2S
